US07994196B2
A mixture of 5-chloro-4-(trifluoromethyl)-2-[(trimethylsilyl)ethynyl]aniline (16.5 g), copper(I) iodide (20.4 g) and dimethylformamide (100 ml) was stirred at room temperature for 10 min and then stirred with heating at 100° C. for 2.5 hr. The reaction mixture was allowed to cool, diethyl ether was added and the mixture was stirred at room temperature. The reaction mixture was filtered through a celite (trademark) filter, and the filtrate was washed with water and saturated brine, dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give a brown oil. The oil was purified by silica gel column chromatography (elution solvent:ethyl acetate-hexane (1:5-1:3)) to give 6-chloro-5-(trifluoromethyl)-1H-indole (5.75 g, yield 46%).

reactant | 5-chloro-4-(trifluoromethyl)-2-[(trimethylsilyl)ethynyl]aniline | 16.5 g | ClC=1C(=CC(=C(N)C1)C#C[Si](C)(C)C)C(F)(F)F | C12H13ClF3NSi
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
catalyst | copper(I) iodide | 20.4 g | [Cu]I
solvent | diethyl ether | C(C)OCC | C4H10O
product | 6-chloro-5-(trifluoromethyl)-1H-indole | 5.75 g, yield 46% | ClC1=C(C=C2C=CNC2=C1)C(F)(F)F | C9H5ClF3N
